US04018802
Step D. Preparation of methyl 8-methylsulfonyl-12-acetoxyheptadecanoate
A mixture of methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate (36.7 g., 0.077 mole), sodium chloride (4.68 g., 0.08 mole), water (1 ml.) and dimethylsulfoxide (60 ml.) is heated in a bath maintained at 185° C. under nitrogen for 5 hours. The resulting reaction mixture is concentrated in vacuo at 100° C. providing an oily residue which is diluted with water. The aqueous mixture is acidified to Congo Red with 6N hydrochloric acid and extracted with ether. The organic extract is washed with water, dried over magnesium sulfate, filtered and evaporated in vacuo leaving the title compound as a viscous oil (31 g., 95%), pmr (CDCl3) δ2.0 (s, 3H), 2.82 (s, 3H), 3.63 (s, 3H) and 4.9 (b, H).

reactant | methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate | 0.077 mole, 36.7 g | COC(=O)C(CCCCCCC(=O)OC)(CCCC(CCCCC)OC(C)=O)S(=O)(=O)C | C23H42O8S
reactant | sodium chloride | 0.08 mole, 4.68 g | [Cl-].[Na+]
reactant | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | methyl 8-methylsulfonyl-12-acetoxyheptadecanoate | 31 g, 95% | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H40O6S
